US04656175
1-Carboethoxy-4-[4,4-bis(p-fluorophenyl)butyl]piperazine hydrochloride
To a solution of 3.3 g (0.01 mole) of 1-[4,4-bis(p-fluorophenyl)butyl]piperazine in 10 ml of CHCl3 was added dropwise over a period of 15 minutes 1.2 g (0.011 mole) of ethyl chloroformate in 10 ml of CHCl3. The mixture was refluxed for 2 hours and was made basic with 0.8 g of sodium hydroxide in 25 ml of water.

reactant | 1-[4,4-bis(p-fluorophenyl)butyl]piperazine | 0.01 mole, 3.3 g | FC1=CC=C(C=C1)C(CCCN1CCNCC1)C1=CC=C(C=C1)F | C20H24F2N2
reactant | ethyl chloroformate | 0.011 mole, 1.2 g | ClC(=O)OCC | C3H5ClO2
reactant | sodium hydroxide | 0.8 g | [OH-].[Na+]
solvent | CHCl3 | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 25 ml | O | H2O
product | 1-Carboethoxy-4-[4,4-bis(p-fluorophenyl)butyl]piperazine hydrochloride | Cl.C(=O)(OCC)N1CCN(CC1)CCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | InChI=1S/C23H28F2N2O2.ClH/c1-2-29-23(28)27-16-14-26(15-17-27)13-3-4-22(18-5-9-20(24)10-6-18)19-7-11-21(25)12-8-19;/h5-12,22H,2-4,13-17H2,1H3;1H
